data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]S(=O)(=O)O.CCC(NCC)[N:10](C)C>>[H:20][N+:10](C)(C)C(CC)NCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][N+:21](=C(C)OP(=O)(Cl)Cl)CCC1=CC=CC=C1.[Cl-:10]>>[H:20][Cl:10].CC(=[N:21]CCC1=CC=CC=C1)OP(=O)(Cl)Cl 10=20;20,21=21
[H:20][N+:21]1=C2CCCCCN2CCC1.CC=CC(C1=[N+](N=C2N1C3C(CC4=C3C=CC=C4)OC2)C5=C(C(=C(C(=C5F)F)F)F)F)[O-:10].[B-](F)(F)(F)F.C1=CC=C(C=C1)C=C(C(=O)C2=CC=CC=C2)C(=O)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)C(=CC2=CC=C(C=C2)Br)C(=O)C3=CC=CC=C3>>[H:20][O:10]C(C=CC)C1=[N+](N=C2N1C3C(CC4=C3C=CC=C4)OC2)C5=C(C(=C(C(=C5F)F)F)F)F.C1CCC2=[N:21]CCCN2CC1.[B-](F)(F)(F)F.C1=CC=C(C=C1)C=C(C(=O)C2=CC=CC=C2)C(=O)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)C(=CC2=CC=C(C=C2)Br)C(=O)C3=CC=CC=C3 10=20;20,21=21
[CH3:20][I:21].C1COCC[NH:10]1>>[CH3:20][NH+:10]1CCOCC1.[I-:21] 10=20;20,21=21
[H:20][CH:21](C)[S+](C1=CC=CC=C1)OC(=O)C(F)(F)F.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C[CH-:21][S+](C1=CC=CC=C1)OC(=O)C(F)(F)F 10=20;20,21=21
C[C:20](=[OH+:21])OC(=O)C=C.[OH2:10]>>C[C:20]([OH2+:10])([OH:21])OC(=O)C=C 10=20;20,21=21
CC[O-:10].[AlH3:20]>>CC[O:10][AlH3-:20] 10=20,
[H:20][C:21]1([CH+:22]C=CO1)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].C1=CC=C(C=C1)N=N[C:21]2=[CH:22]C=CO2 10=20;20,21=21,22
[H:20][NH2+:21]C1=CC(=CC=C1)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC(=CC(=C1)S(=O)(=O)O)[NH2:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1=C(C=C(C(=C1)Br)C([OH:10])OCCO)F.CC1=CC=CC=C1>>[H:20][OH+:10]C(C1=CC(=CC=C1Br)F)OCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=CC=CC=C1 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OCC)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCO[C:22]1=[C:21](C=CC=C1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][OH+:21]C1(CCC2(C(=O)CCCC2(C1C)O)C)NC(CC3=CC=CC=C3)C(=O)O.C1=CC=C(C=C1)CC(C(=O)[O-:10])[NH3+].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C>>[H:20][O:10]C(=O)C(CC1=CC=CC=C1)[NH3+].CC1C2(CCCC(=O)C2(CCC1(NC(CC3=CC=CC=C3)C(=O)O)[OH:21])C)O.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C 10=20;20,21=21
CC(=O)N1CCOC23C=C(C(=O)C2(C1)CCC45C3(O4)CC(C6C5CCC(C6)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)O[S:20](=O)(C(F)(F)F)([N:21](C7=CC=CC=C7)S(=O)(=O)C(F)(F)F)[O-:10].CC(C)(C)[Si](C)(C)F.CN(C)S(=[N+](C)C)N(C)C.C[Si](C)(C)F>>C1=CC=C(C=C1)[N-:21]S(=O)(=O)C(F)(F)F.CC(=O)N1CCOC23C=C(C(=O)C2(C1)CCC45C3(O4)CC(C6C5CCC(C6)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)O[S:20](=O)(=[O:10])C(F)(F)F.CC(C)(C)[Si](C)(C)F.CN(C)S(=[N+](C)C)N(C)C.C[Si](C)(C)F 10=20;20,21=21
CC(=O)OC(CO[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)[O:11]C(=O)C)C(C3=CC4=CCC5(C(C4(CCC3=C)OCOCCOC)CCC5O[Si](C)(C)C(C)(C)C)C)OC(=O)C.CC(=O)O>>CC(=O)[O-:11].CC(=O)OC(CO[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C)C(C3=CC4=CCC5(C(C4(CCC3=C)OCOCCOC)CCC5O[Si](C)(C)C(C)(C)C)C)OC(=O)C.CC(=O)O 10,11=11
CC[CH:20](C)[Br:21].C[CH:10]=[C:11](C)[O-:12]>>CC[CH:20](C)[CH:10](C)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C)[CH+:22]C.CC(C)(C)[OH:10]>>C[CH:21]=[CH:22]C.[H:20][OH+:10]C(C)(C)C 10=20;20,21=21,22
CCOC(=O)C(C[C:20](=[OH+:21])C)C(=[O:10])C(F)(F)F.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCOC(=O)C1C[C:20]([O+:10]=C1C(F)(F)F)(C)[OH:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[BH3:20].CCCC=[O:10]>>[BH3-:20][O+:10]=CCCC 10=20,
[H:20][C:21]1([CH+:22]C(=CO1)C(=O)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CO[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][O:21][S+](=O)=O.C1=CC=[C:10](C=C1)[Mg:11]Br>>[H:20][C:10]1=CC=CC=C1.[O-:21][S+](=O)=O.[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][CH:21](C=NC)[C+:22](C)C(C)C.CC(C)(C)[OH:10]>>[H:20][OH+:10]C(C)(C)C.CC(C)[C:22](=[CH:21]C=NC)C 10=20;20,21=21,22
[H:20][CH:21]1C(=C([NH+:23]=[C:22]1C2=CC=CC=C2)C)C(=O)OCC.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CCOC(=O)C1=C([NH:23][C:22](=[CH:21]1)C2=CC=CC=C2)C.O 10=20;22,23=23;20,21=21,22
C=C[CH2+:20].[Br-:10]>>C=C[CH2:20][Br:10] 10=20,
[H:20][CH:21]1CC2(C3CC(CCC3(CCC2(CC(=O)CC4C([C:22]1=[O:23])CCC(C4(C)C)OC(=O)C)C)C)(C)C(=O)OC)C.[H:10][Na:11]>>CC(=O)OC1CCC2C(C1(C)C)CC(=O)CC3(CCC4(CCC(CC4C3(C[CH:21]=[C:22]2[O-:23])C)(C)C(=O)OC)C)C.[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
[B:20](F)(F)F.CCCN(C)C(=[O:10])C>>[B-:20]([O+:10]=C(C)N(C)CCC)(F)(F)F 10=20,
CC(C)C1CCC2=CC(=O)C(CCC12C)C[N:10](C)C.[CH3:20][I:21].[I-]>>CC(C)C1CCC2=CC(=O)C(CCC12C)C[N+:10](C)(C)[CH3:20].[I-:21].[I-] 10=20;20,21=21
[H:20][O+:21]=C1CCC(=O)N1Br.[Br-:10]>>C1CC(=O)N(C1=[O:21])Br.[H:20][Br:10] 10=20;20,21=21
CCC(CO)[NH2:10].[CH3:20][I:21]>>CCC(CO)[NH2+:10][CH3:20].[I-:21] 10=20;20,21=21
[H:20][O:21]C(=CC(=O)OC)CC1=CC=CC=C1.CC[O-:10]>>[H:20][O:10]CC.COC(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC(CC1=CC=CC=C1)NC(=O)C2=CC=CC=C2)I3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]CC(CC3=CC=CC=C3)NC(=O)C4=CC=CC=C4)OC(=O)C 10=20;20,21=21
C1CO[C:20](=[OH+:21])OC1.[OH2:10]>>C1CO[C:20](OC1)([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][Cl:21].CC1CCCC([C:11](=[CH:10]1)C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCCC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C.[Cl-:21] 10,11=10,20;20,21=21
